US06248739B1
N-(4-Chlorobenzyl)-1-cyclopropyl-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide
To a flask containing ethyl 1-cyclopropyl-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxylate (0.38 g) from Preparation No. 25 is added 4-chlorobenzylamine (2.0 mL). The reaction is tightly capped and heated to 165° C. overnight. The reaction is cooled to room temperature, adsorbed onto silica and chromatographed on silica eluting with 1% to 6% methanol in dichloromethane. The product-containing fractions are evaporated to give a solid which is dissolved in a minimal amount of dichloromethane. The solution is added to 1:1 diethyl ether:pentane to precipitate the title compound as a white solid. This solid is collected by filtration and dried in vacuo to afford 0.36 g of the title compound.

reactant | ethyl 1-cyclopropyl-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxylate | 0.38 g | C1(CC1)N1C=C(C(C2=CC(=CC=C12)CN1CCOCC1)=O)C(=O)OCC | C20H24N2O4
reactant | 4-chlorobenzylamine | 2.0 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-Chlorobenzyl)-1-cyclopropyl-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.36 g | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CN2CCOCC2)C2CC2)C=C1 | C25H26ClN3O3
